US04839379
1-(4-Aminophenyl)-3-azabicyclo[3.1.0]hexan-2,4-dione
To a solution of 25.9 g of 1-(4-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione (preparation as described in DE-OS 2 740 562) in 700 ml of ethanol are added 1.4 g of 5% palladium/carbon catalyst. Hydrogenation is carried out under normal pressure and at room temperature with hydrogen. When the absorption of hydrogen is complete (theoretical amount: 7500 ml), the reaction mixture is diluted with 1 ml of ethanol and concentrated after removal of the catalyst. The product so obtained is recrystallised from ethanol, affording the title compound with m.p. 183°-185° C.

reactant | 1-(4-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 25.9 g | [N+](=O)([O-])C1=CC=C(C=C1)C12C(NC(C2C1)=O)=O | C11H8N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 700 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 1.4 g | [Pd] | Pd
product | 1-(4-Aminophenyl)-3-azabicyclo[3.1.0]hexan-2,4-dione | NC1=CC=C(C=C1)C12C(NC(C2C1)=O)=O | C11H10N2O2
